US07989634B2
Step B: (2R)-2-{methyl[2-(methyl(BOC)amino)ethyl]}amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide
The title compound was prepared following the procedure described in Step A of Example 128 using (2R)-2-{methyl[2-(BOC)aminoethyl]}amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide prepared in the above Step A and methyliodide.

reactant | (2R)-2-{methyl[2-(BOC)aminoethyl]}amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide | CC(CN[C@@H](C(=O)NN1C[C@H](CC1)N(C(C(C)C)=O)C1CCCCC1)CC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C | C31H50ClN5O4
reactant | methyliodide | CI | CH3I
product | (2R)-2-{methyl[2-(methyl(BOC)amino)ethyl]}amino-N-{(3S)-3-[cyclohexyl(isobutyryl)amino]pyrrolidine-1-yl}-3-(4-chlorophenyl)propionamide | CC(CN[C@@H](C(=O)NN1C[C@H](CC1)N(C(C(C)C)=O)C1CCCCC1)CC1=CC=C(C=C1)Cl)N(C(=O)OC(C)(C)C)C | C32H52ClN5O4
